US09302985B2
To a solution of 4-bromobenzylalcohol (2 g, 10.7 mmol) in DCM (30 mL) at 0° C. was added Et3N (2.2 mL, 16.0 mmol) followed by methanesulfonyl chloride (910 μL, 11.8 mmol). The reaction was allowed to warm to room temperature, stirred for 2 hours and then quenched with water. Saturated aqueous NaHCO3 was added, the product was extracted with DCM, the combined organic extracts were filtered through a phase separator cartridge and concentrated to give methanesulfonic acid 4-bromo-benzyl ester (2.67 g, 10 mmol, 94%). A solution of the crude product (2.67 g, 10 mmol) in DMSO (40 mL) was stirred at room temperature for 16 hours with potassium thioacetate (1.26 g, 11 mmol). The reaction was treated with water and extracted with DCM, filtered through a phase separator, concentrated and purified by silica gel column chromatography (0-50% DCM in cyclohexane) to give thioacetic acid S-(4-bromo-benzyl) ester (1.81 g, 7.39 mmol, 69%). 1H NMR (300 MHz, CDCl3): δ 7.41 (d, 2 H), 7.16 (d, 2 H), 4.05 (s, 2 H), 2.35 (s, 3 H).

reactant | 4-bromobenzylalcohol | 10.7 mmol, 2 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | Et3N | 16.0 mmol, 2.2 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.8 mmol, 910 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 4-bromo-benzyl ester | 10 mmol, 2.67 g, 94% | BrC1=CC=C(COS(=O)(=O)C)C=C1 | C8H9BrO3S
